US08071592B2
7-Fluoro-1-(2-propen-1-yl)-1,5-naphthyridin-2(1H)-one (1.683 g, 8.25 mmol) was dissolved in 1,4-dioxane (100 ml) and water (50 ml) was added. The solution was cooled to 0° C. and sodium periodate (5.29 g, 24.75 mmol) was added, followed by osmium tetroxide (9 mL of 4% aqueous solution). The stirred mixture was allowed to warm to rt, then stirred at rt for 1 h. The mixture was then treated with a further 100 ml of water and sodium periodate (10.58 g, 49.5 mmol) and stirred at rt for 1 h. The mixture was evaporated to approximately 50 ml and the residue was extracted with 20% methanol in DCM (3×300 ml). The organic extracts were combined, dried over anhydrous magnesium sulphate, filtered and evaporated to give (7-fluoro-2-oxo-1,5-naphthyridin-1(2H)-yl)acetaldehyde (mainly as the methyl hemiacetal) as an off-white solid (1.531 g, 90%).

reactant | 7-Fluoro-1-(2-propen-1-yl)-1,5-naphthyridin-2(1H)-one | 8.25 mmol, 1.683 g | FC1=CN=C2C=CC(N(C2=C1)CC=C)=O | C11H9FN2O
reactant | water | 50 ml | O | H2O
reactant | sodium periodate | 24.75 mmol, 5.29 g | I(=O)(=O)(=O)[O-].[Na+]
reactant | water | 100 ml | O | H2O
reactant | sodium periodate | 49.5 mmol, 10.58 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | 1,4-dioxane | 100 ml | O1CCOCC1 | C4H8O2
catalyst | osmium tetroxide | 9 mL | [Os](=O)(=O)(=O)=O
product | (7-fluoro-2-oxo-1,5-naphthyridin-1(2H)-yl)acetaldehyde | FC1=CN=C2C=CC(N(C2=C1)CC=O)=O | C10H7FN2O2
